US09145370B2
N-Methyl-5-trifluoromethyl-3-difluoromethyl-4-pyrazolecarboxylic acid ethyl ester (0.5 g, 1.84 mmol) in ethanol (3 ml) was admixed gradually with an 8N aqueous sodium hydroxide solution (0.7 ml) and stirred at room temperature for 3 h. The solvent was removed by rotary evaporation; the residue was taken up in water (10 ml) and extracted with diethyl ether (10 Acidification to pH 1 with 1M HCl was followed by extraction with ethyl acetate (3×10 ml). The combined organic phases were dried over sodium sulphate and filtered, and the solvent was removed by rotary evaporation. N-Methyl-3-difluoromethyl-5-trifluoromethyl-4-pyrazolecarboxylic acid (0.44 g, 1.80 mmol, 98%) was isolated as a yellowish solid.

reactant | N-Methyl-5-trifluoromethyl-3-difluoromethyl-4-pyrazolecarboxylic acid ethyl ester | 1.84 mmol, 0.5 g | C(C)OC(=O)C=1C(=NN(C1C(F)(F)F)C)C(F)F | C9H9F5N2O2
reactant | sodium hydroxide | 8N, 0.7 ml | [OH-].[Na+]
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | N-Methyl-3-difluoromethyl-5-trifluoromethyl-4-pyrazolecarboxylic acid | 1.80 mmol, 0.44 g, 98% | CN1N=C(C(=C1C(F)(F)F)C(=O)O)C(F)F | C7H5F5N2O2
